US07964616B2
c) 6-Chloro-N-{[(1S,3S)-1-hydroxy-3-methylcyclohexyl]methyl}-2-(3-hydroxy-3-methylpyrrolidin-1-yl)quinoline-5-carboxamide
The title compound was prepared by the method of Example 1, step e) by reacting 3-methylpyrrolidin-3-ol (0.42 g) (instead of (S)-3-hydroxypyrrolidine) with 2,6-dichloro-quinoline-5-carboxylic acid (1-hydroxy-3-methyl-cyclohexylmethyl)-amide (0.10 g) and triethylamine (0.38 ml) (instead of diisopropylethylamine) in acetonitrile (1 ml) to afford the title compound crude and as a 1:1 mixture of diastereomers. The reaction was concentrated in vacuo and the products isolated by flash column chromatography (SiO2, 4% methanol/dichloromethane as eluent) as a colourless solid (70 mg). The diastereomers were separated by supercritical fluid chromatography (SFC) on an OJ Daicel column using 25% ethanol/carbon dioxide as eluent to afford Isomer 1 as a colourless solid (18 mg).

reactant | 3-methylpyrrolidin-3-ol | 0.42 g | CC1(CNCC1)O | C5H11NO
reactant | (S)-3-hydroxypyrrolidine | O[C@@H]1CNCC1 | C4H9NO
reactant | 2,6-dichloro-quinoline-5-carboxylic acid (1-hydroxy-3-methyl-cyclohexylmethyl)-amide | 0.10 g | OC1(CC(CCC1)C)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl | C18H20Cl2N2O2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | triethylamine | 0.38 ml | C(C)N(CC)CC | C6H15N
product | 6-Chloro-N-{[(1S,3S)-1-hydroxy-3-methylcyclohexyl]methyl}-2-(3-hydroxy-3-methylpyrrolidin-1-yl)quinoline-5-carboxamide | ClC1=C(C=2C=CC(=NC2C=C1)N1CC(CC1)(C)O)C(=O)NC[C@]1(C[C@H](CCC1)C)O | C23H30ClN3O3
